US07268154B2
21.1 1-{cis-4-[2-(2-Chloro-6-fluoro-phenyl)-acetylamino]-cyclohexyl}-1H-[1,2,3]triazol-4-carboxylic acid
1-{cis-4-[2-(2-Chloro-6-fluoro-phenyl)-acetylamino]-cyclohexyl}-1H-[1,2,3]triazole-4-carboxylic acid methyl ester (400 mg) was dissolved in a mixture of THF (3.2 ml)/MeOH (3.2 ml)/H2O (1.6 ml) and LiOH.H2O (43 mg) was added. The reaction mixture was stirred 1 h at 60° C., then it was poured on a mixture of H2O (35 ml) and EtOAc (35 ml). The aqueous layer was collected, acidified with 1 M HCl to pH<4 and extracted with EtOAc (2×35 ml). After drying over Na2SO4 the solvent was evaporated to yield 341 mg (88%) of product. White powder. MS 379.1 (100, [M−H]−).

reactant | 1-{cis-4-[2-(2-Chloro-6-fluoro-phenyl)-acetylamino]-cyclohexyl}-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | 400 mg | COC(=O)C=1N=NN(C1)[C@@H]1CC[C@@H](CC1)NC(CC1=C(C=CC=C1F)Cl)=O | C18H20ClFN4O3
reactant | LiOH.H2O | 43 mg | O[Li].O
reactant | EtOAc | 35 ml | CCOC(=O)C | C4H8O2
solvent | THF | 3.2 ml | C1CCOC1 | C4H8O
solvent | MeOH | 3.2 ml | CO | CH4O
solvent | H2O | 1.6 ml | O | H2O
solvent | H2O | 35 ml | O | H2O
product | 1-{cis-4-[2-(2-Chloro-6-fluoro-phenyl)-acetylamino]-cyclohexyl}-1H-[1,2,3]triazol-4-carboxylic acid | 341 mg, 88% | ClC1=C(C(=CC=C1)F)CC(=O)N[C@H]1CC[C@H](CC1)N1N=NC(=C1)C(=O)O | C17H18ClFN4O3
